US07605269B2
A suspension of 3-[4-(2,2-dimethyl-5-nitro-[1,3]dioxan-5-ylmethoxy)-3,5-dimethyl-phenyl]-5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazole (85 mg, 0.158 mmol) in THF:TFA:water 20:4:1 (12.5 mL) is stirred at 65° C. for 4.5 h. The mixture is further diluted with TFA:water 2:1 (1.5 mL) and stirring is continued at 65° C. for 3 h. The mixture is cooled to rt, poured onto 2N aq. NaOH and extracted twice with DCM. The organic extracts are dried over MgSO4 and evaporated to give 2-{2,6-dimethyl-4-[5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazol-3-yl]-phenoxymethyl}-2-nitro-propane-1,3-diol (78 mg) as a beige resin; LC-MS: tR=1.17 min, [M+1]+=500.89.

reactant | 3-[4-(2,2-dimethyl-5-nitro-[1,3]dioxan-5-ylmethoxy)-3,5-dimethyl-phenyl]-5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazole | 0.158 mmol, 85 mg | CC1(OCC(CO1)([N+](=O)[O-])COC1=C(C=C(C=C1C)C1=NOC(=N1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C)C)C | C28H33N3O6S
reactant | NaOH | 2N | [OH-].[Na+]
solvent | THF TFA water | 12.5 mL | C1CCOC1.C(=O)(C(F)(F)F)O.O
solvent | TFA water | 1.5 mL | C(=O)(C(F)(F)F)O.O
product | 2-{2,6-dimethyl-4-[5-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-[1,2,4]oxadiazol-3-yl]-phenoxymethyl}-2-nitro-propane-1,3-diol | 78 mg | CC1=C(OCC(CO)(CO)[N+](=O)[O-])C(=CC(=C1)C1=NOC(=N1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C)C | C25H29N3O6S
